US07396844B1
Synthesis of t-butyl (1R)-2-(3-cyanophenoxy)-1-(2-methylpropyl)ethylcarbamate
2.35 g (9.97 mmol) of t-butyl (1R)-2-chloro-1-(2-methylpropyl)ethylcarbamate was reacted with 2.42 g (20.3 mmol)) of 3-cyanophenol and 2.72 g (19.7 mmol) of potassium carbonate in dimethylformamide. After the treatment in an ordinary manner, the title compound was obtained.

reactant | t-butyl (1R)-2-chloro-1-(2-methylpropyl)ethylcarbamate | 9.97 mmol, 2.35 g | ClC[C@@H](CC(C)C)NC(OC(C)(C)C)=O | C11H22ClNO2
reactant | 3-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 19.7 mmol, 2.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | t-butyl (1R)-2-(3-cyanophenoxy)-1-(2-methylpropyl)ethylcarbamate | C(#N)C=1C=C(OC[C@@H](CC(C)C)NC(OC(C)(C)C)=O)C=CC1 | C18H26N2O3
